US06114390
a) (R)-N-[[4-(Aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-N2 -[(2-cyclopropyl-1,4-dimethyl-1H-benzimidazol-6-yl)carbonyl]-ornithinamide
Prepared analogously to Example 69a) from 2-cyclopropyl-1,4-dimethyl-1H-benzimidazole-6-carboxylic acid, (R)-N-[[4-(aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-ornithinamide-hydrochloride and TBTU in a yield of 51% of theory.

reactant | 2-cyclopropyl-1,4-dimethyl-1H-benzimidazole-6-carboxylic acid | C1(CC1)C1=NC2=C(N1C)C=C(C=C2C)C(=O)O | C13H14N2O2
reactant | (R)-N-[[4-(aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-ornithinamide-hydrochloride | Cl.NC(=O)NCC1=CC=C(C=C1)CNC([C@H](N)CCCNC(=N[N+](=O)[O-])N)=O
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
product | (R)-N-[[4-(Aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-N2 -[(2-cyclopropyl-1,4-dimethyl-1H-benzimidazol-6-yl)carbonyl]-ornithinamide | yield of 51% | NC(=O)NCC1=CC=C(C=C1)CNC([C@H](NC(=O)C=1C=C(C2=C(N(C(=N2)C2CC2)C)C1)C)CCCNC(=N[N+](=O)[O-])N)=O | C28H36N10O5
